US06875765B2
(2-Methyl-naphthalen-1-yl)-acetonitrile (4.9 g, 27 mmol) was stirred with H2SO4 (50 mL) and H2O (50 mL) at 150° C. for 25 minutes in a round-bottom flask fitted with a condenser. TLC analysis (silica, 20% acetone-hexanes) indicated complete consumption of the starting material. The reaction was allowed to cool to room temperature and then was carefully diluted with H2O. The acidic dilution was extracted three times with EtOAc. The organic extracts were combined and extracted twice with aqueous 10% NaOH. The basic H2O extracts were combined, acidified to pH<3 with 1N HCl, and extracted three times with EtOAc. The organic extracts were combined, washed with brine solution, dried over Na2SO4, decanted, and concentrated to give (2-methyl-naphthalen-1-yl)-acetic acid (3.6 g, 18 mmol) in 67% yield. MS (APCI) m/z 199.1 (M−H). 1H NMR (300 MHz) CDCl3 7.97 (d, J=8.6 Hz, 1H), 7.81 (d, J=8.7 Hz, 1H), 7.71 (d, J=8.4 Hz, 1H), 7.47 (m, 2H), 7.33 (d, J=8.2 Hz, 1H), 4.13 (s, 2H), 2.53 (s, 3H).

reactant | (2-Methyl-naphthalen-1-yl)-acetonitrile | 27 mmol, 4.9 g | CC1=C(C2=CC=CC=C2C=C1)CC#N | C13H11N
reactant | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
reactant | H2O | 50 mL | O | H2O
product | (2-methyl-naphthalen-1-yl)-acetic acid | 18 mmol, 3.6 g, 67% yield | CC1=C(C2=CC=CC=C2C=C1)CC(=O)O | C13H12O2
